US04301279
3-hydroxy-7β-phenoxyacetylamino-cepham-4α-carboxylic acid diphenylmethyl ester
A solution of 139.32 g (160 mmol) of a mixture consisting of the 2-[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-(1-pyrrolidinyl)-crotonic acid diphenylmethyl ester and the corresponding isocrotonic acid ester in 1350 ml of dry acetonitrile is heated at 80° for approximately 6 hours under nitrogen until it is no longer possible to detect any starting material by thin layer-chromatography (silica gel; toluene/ethyl acetate 1:1). The heating bath is removed, the reaction mixture containing the 7β-phenoxyacetamido-3-(1-pyrrolidinyl)-3-cephem-4-carboxylic acid diphenylmethyl ester is left to cool for a further 11/2 hours, 550 ml of 0.1 N hydrochloric acid are added and the mixture is further stirred for 81/2 hours at room temperature. The reaction mixture is diluted with ethyl acetate, the water is separated off, the organic phase is washed twice with 2 N hydrochloric acid and three times with water, dried over sodium sulphate, concentrated by evaporation in vacuo and dried under a high vacuum. The residue, containing the 7β-phenoxyacetamido-3-hydroxy-3-cephem-4-carboxylic acid diphenylmethyl ester, is used in the next step without further purification.

reactant | 2-[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-(1-pyrrolidinyl)-crotonic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(\C(=C(\C)/N1CCCC1)\N1C(C(C1SS(=O)(=O)C1=CC=C(C=C1)C)NC(COC1=CC=CC=C1)=O)=O)=O | C39H39N3O7S2
reactant | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
solvent | acetonitrile | 1350 ml | C(C)#N | C2H3N
product | 3-hydroxy-7β-phenoxyacetylamino-cepham-4α-carboxylic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)[C@H]1C(CS[C@H]2N1C([C@H]2NC(COC2=CC=CC=C2)=O)=O)O | C28H26N2O6S
